US06384041B1
A solution of 5.30 g (23.2 mmol) of 2-(methylthio)-4-chloro-6-ethyl-1H-pyrrolo[2,3-d]pyrimidine in 160 mL of tetrahydrofuran (THF) was added to a 0° C. slurry of 7.96 g (46.5 mmol) of benzylbromide and 1.12 g (46.5 mmol) of sodium hydride in 40 mL of THF. The reaction was allowed to warm to ambient temperature and stirred for 18 hours. The reaction was quenched by the addition of 70 mL of brine. The organic phase was dried with sodium sulfate and concentrated to 12.0 g of brown oil. The oil was purified by flash chromatography using 1 Kg of silica gel and methylene chloride as an eluent to provide 6.40 g (87%) of 2-(methylthio)-4-chloro-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidine as a light yellow solid. nmr (500 MHz, CDCl3) δ1.29 (t, J=7.5 Hz, 3H), 2.60 (s, 3H), 2.61 (q, J=7.5 Hz, 2H), 5.41 (s, 2H), 6.28 (s, 1H), 7.07 (d, J=6.8 Hz, 2H), 7.28 (m, 3H)

reactant | 2-(methylthio)-4-chloro-6-ethyl-1H-pyrrolo[2,3-d]pyrimidine | 23.2 mmol, 5.30 g | CSC1=NC(=C2C(N1)=NC(=C2)CC)Cl | C9H10ClN3S
reactant | benzylbromide | 46.5 mmol, 7.96 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 46.5 mmol, 1.12 g | [H-].[Na+]
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
solvent | THF | 40 mL | O1CCCC1 | C4H8O
product | 2-(methylthio)-4-chloro-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidine | 6.40 g, 87% | CSC=1N=C(C2=C(N1)N(C(=C2)CC)CC2=CC=CC=C2)Cl | C16H16ClN3S
